US07981893B2
6-Bromo-1-(2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one. 3,5-Dibromopyrazin-2-amine (161 mg, 0.6 mmol), 2-(2,2-dimethyl-tetrahydro-pyran-4-yl)-ethylamine hydrochloride (100 mg, 0.5 mmol), diisopropylethylamine (0.5 mL), and dimethylsulfoxide (2 mL) were heated in a Biotage Emrys Optimizer microwave reactor to 150° C. for 2 h to give crude 6-bromo-N2-(2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl)pyrazine-2,3-diamine. MS (ESI) m/z 329.5, 331.5 [M+1]+. 1,1′-Carbonyldiimidazole (194 mg, 1.2 mmol) was added to the reaction mixture and then heated again in a Biotage Emrys Optimizer microwave reactor to 150° C. for 10 min. The product was purified by reverse-phase semi-preparatory HPLC (10-70% acetonitrile+0.1% TFA in H2O+0.1% TFA, over 30 min). Product containing fractions were concentrated and then triturated with ether to give a white solid (90 mg, 42% yield over two steps). MS (ESI) m/z 355.4 [M]+, 357.4 [M+2]+.

reactant | 6-Bromo-1-(2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one | BrC1=CN=C2C(=N1)N(C(N2)=O)CCC2CC(OCC2)(C)C | C14H19BrN4O2
reactant | 3,5-Dibromopyrazin-2-amine | 0.6 mmol, 161 mg | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | 2-(2,2-dimethyl-tetrahydro-pyran-4-yl)-ethylamine hydrochloride | 0.5 mmol, 100 mg | Cl.CC1(OCCC(C1)CCN)C
reactant | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 6-bromo-N2-(2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl)pyrazine-2,3-diamine | 42% yield | BrC1=CN=C(C(=N1)NCCC1CC(OCC1)(C)C)N | C13H21BrN4O
